### PR TITLE
[Merged by Bors] - feat: more RestrictedProduct API

### PR DESCRIPTION
**Pull request by kbuzzard**
A constructor, more algebra boilerplate (e.g. `SMul ℕ` on a restricted product of `AddMonoid`s, restricted product of `CommMonoid`s is a `CommMonoid`, restricted product of `R`-modules wrt `R`-submodules is an `R`-module, variant of `map` when the index set doesn't change). 

From the FLT project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 1]
```diff
@@ -221,6 +237,11 @@ instance [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
     Monoid (Πʳ i, [R i, B i]_[𝓕]) :=
   DFunLike.coe_injective.monoid _ rfl (fun _ _ ↦ rfl) (fun _ _ ↦ rfl)
 
+@[to_additive]
+instance [Π i, CommMonoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
+    CommMonoid (Πʳ i, [R i, B i]_[𝓕]) :=
```
Comment (matthewjasper) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:237]: Can we have comm group as well?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 2]
```diff
@@ -203,10 +213,16 @@ lemma div_apply [Π i, DivInvMonoid (R i)] [∀ i, SubgroupClass (S i) (R i)]
     (x y : Πʳ i, [R i, B i]_[𝓕]) (i : ι) : (x / y) i = x i / y i :=
   rfl
 
+instance instNSMul [Π i, AddMonoid (R i)] [∀ i, AddSubmonoidClass (S i) (R i)] :
+    SMul ℕ (Πʳ i, [R i, B i]_[𝓕]) where
+  smul n x := ⟨fun i ↦ n • (x i), x.2.mono fun _ hi ↦ nsmul_mem hi n⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:218]: We really need a weaker version of `SMulMemClass` which doesn't put the acting monoid as an `outParam`...

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 3]
```diff
@@ -221,22 +237,31 @@ instance [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
...
 instance [Π i, DivInvMonoid (R i)] [∀ i, SubgroupClass (S i) (R i)] :
     Pow (Πʳ i, [R i, B i]_[𝓕]) ℤ where
   pow x n := ⟨fun i ↦ x i ^ n, x.2.mono fun _ hi ↦ zpow_mem hi n⟩
 
+@[to_additive]
 lemma zpow_apply [Π i, DivInvMonoid (R i)] [∀ i, SubgroupClass (S i) (R i)]
     (x : Πʳ i, [R i, B i]_[𝓕]) (n : ℤ) (i : ι) : (x ^ n) i = x i ^ n :=
   rfl
 
+@[to_additive]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: What does this generate??

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 4]
```diff
@@ -221,22 +237,31 @@ instance [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
...
 instance [Π i, AddMonoidWithOne (R i)] [∀ i, AddSubmonoidWithOneClass (S i) (R i)] :
     NatCast (Πʳ i, [R i, B i]_[𝓕]) where
   natCast n := ⟨fun _ ↦ n, .of_forall fun _ ↦ natCast_mem _ n⟩
 
-instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
-    IntCast (Πʳ i, [R i, B i]_[𝓕]) where
-  intCast n := ⟨fun _ ↦ n, .of_forall fun _ ↦ intCast_mem _ n⟩
-
+@[to_additive]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:258]: Same thing, what does this do?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 5]
```diff
@@ -221,22 +237,31 @@ instance [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
...
 instance [Π i, AddGroup (R i)] [∀ i, AddSubgroupClass (S i) (R i)] :
     AddGroup (Πʳ i, [R i, B i]_[𝓕]) :=
   haveI : ∀ i, SMulMemClass (S i) ℤ (R i) := fun _ ↦ AddSubgroupClass.zsmulMemClass
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: I think you can remove these (and the next one) now?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 6]
```diff
@@ -329,6 +380,17 @@ lemma map_apply (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) (j : ι₂) :
     x.map R₁ R₂ f hf φ hφ j = φ j (x (f j)) :=
   rfl
 
+-- variant of `map` where the index set is constant
+
+/-- The maps between restricted products over a fixed index type,
+given maps on the factors. -/
+def congrRight {G H : ι → Type*}
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: This is going to be annoying for you down in FLT, but I don't like this name. To me this is the name of an equiv. What about renaming the existing `map` to `mapAlong` (for "mapping along a reindexing map") and call this `map`?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: Oh erm nothing?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: I'm sure it will be easy to adapt FLT, don't worry about that, let's get mathlib right. I also changed `mapRingHom` to `mapAlongRingHom` etc.

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 7]
```diff
@@ -315,20 +357,32 @@ variable (φ : ∀ j, R₁ (f j) → R₂ j) (hφ : ∀ᶠ j in 𝓕₂, MapsTo
...
-See also `mapMonoidHom`, `mapAddMonoidHom` and `mapRingHom` for variants.
+See also `mapAlongMonoidHom`, `mapAlongAddMonoidHom` and `mapAlongRingHom` for variants.
 -/
-def map (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) : Πʳ j, [R₂ j, A₂ j]_[𝓕₂] := ⟨fun j ↦ φ j (x (f j)), by
+def mapAlong (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) : Πʳ j, [R₂ j, A₂ j]_[𝓕₂] :=
+  ⟨fun j ↦ φ j (x (f j)), by
   filter_upwards [hf.eventually x.2, hφ] using fun _ h1 h2 ↦ h2 h1⟩
 
 @[simp]
 lemma map_apply (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) (j : ι₂) :
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]:
```suggestion
lemma mapAlong_apply (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) (j : ι₂) :
```

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 8]
```diff
@@ -315,20 +357,32 @@ variable (φ : ∀ j, R₁ (f j) → R₂ j) (hφ : ∀ᶠ j in 𝓕₂, MapsTo
...
-    x.map R₁ R₂ f hf φ hφ j = φ j (x (f j)) :=
+    x.mapAlong R₁ R₂ f hf φ hφ j = φ j (x (f j)) :=
   rfl
 
+-- variant of `mapAlong` where the index set is constant
+
+/-- The maps between restricted products over a fixed index type,
+given maps on the factors. -/
+def map {G H : ι → Type*}
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:374]: Should this also get a `simp` lemma? Maybe `@[simps]` can generate it.

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 9]
```diff
@@ -203,10 +213,16 @@ lemma div_apply [Π i, DivInvMonoid (R i)] [∀ i, SubgroupClass (S i) (R i)]
...
   rfl
 
+instance instNSMul [Π i, AddMonoid (R i)] [∀ i, AddSubmonoidClass (S i) (R i)] :
+    SMul ℕ (Πʳ i, [R i, B i]_[𝓕]) where
+  smul n x := ⟨fun i ↦ n • (x i), x.2.mono fun _ hi ↦ nsmul_mem hi n⟩
+
+@[to_additive existing instNSMul]
 instance [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
     Pow (Πʳ i, [R i, B i]_[𝓕]) ℕ where
   pow x n := ⟨fun i ↦ x i ^ n, x.2.mono fun _ hi ↦ pow_mem hi n⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:223]: Am I right that thanks to this you can contract the `Monoid` and `AddMonoid` instances?

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean (hunk 8 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean:374]: `@[simps!]` gives `Structure Subtype does not have projection apply.` apparently. I've added the `simp` lemma manually. `@[simps!]` wants to generate the `apply` lemma but wants to call it `coe` (which doesn't sound like the right name to me) and I couldn't figure out how to get `initialise_simps_projections` to do it either.

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 10]
```diff
@@ -315,18 +352,38 @@ variable (φ : ∀ j, R₁ (f j) → R₂ j) (hφ : ∀ᶠ j in 𝓕₂, MapsTo
...
+  rfl
+
+-- variant of `mapAlong` where the index set is constant
+
+/-- The maps between restricted products over a fixed index type,
+given maps on the factors. -/
+def map {G H : ι → Type*}
+    {C : (i : ι) → Set (G i)}
+    {D : (i : ι) → Set (H i)} (φ : (i : ι) → G i → H i)
+    (hφ : ∀ᶠ i in 𝓕, Set.MapsTo (φ i) (C i) (D i))
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]:
```suggestion
    (hφ : ∀ᶠ i in 𝓕, MapsTo (φ i) (C i) (D i))
```
(untested)

File: Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 11]
```diff
@@ -315,18 +352,38 @@ variable (φ : ∀ j, R₁ (f j) → R₂ j) (hφ : ∀ᶠ j in 𝓕₂, MapsTo
...
+    (x : Πʳ i, [G i, C i]_[𝓕]) : (Πʳ i, [H i, D i]_[𝓕]) :=
+  mapAlong G H id Filter.tendsto_id φ hφ x
+
+@[simp]
+lemma map_apply {G H : ι → Type*} {C : (i : ι) → Set (G i)}
+    {D : (i : ι) → Set (H i)} (φ : (i : ι) → G i → H i)
+    (hφ : ∀ᶠ i in 𝓕, Set.MapsTo (φ i) (C i) (D i))
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]:
```suggestion
    (hφ : ∀ᶠ i in 𝓕, MapsTo (φ i) (C i) (D i))
```
(untested)

File: Mathlib/Topology/Algebra/RestrictedProduct/TopologicalSpace.lean [hunk 12]
```diff
@@ -650,7 +650,8 @@ variable (f : ι₂ → ι₁) (hf : Tendsto f 𝓕₂ 𝓕₁)
 
 variable (φ : ∀ j, R₁ (f j) → R₂ j) (hφ : ∀ᶠ j in 𝓕₂, MapsTo (φ j) (A₁ (f j)) (A₂ j))
 
-theorem map_continuous (φ_cont : ∀ j, Continuous (φ j)) : Continuous (map R₁ R₂ f hf φ hφ) := by
+theorem map_continuous (φ_cont : ∀ j, Continuous (φ j)) :
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct/TopologicalSpace.lean]:
```suggestion
theorem mapAlong_continuous (φ_cont : ∀ j, Continuous (φ j)) :
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by kbuzzard** [comment]
bors merge
